### PR TITLE
feat(Combinatorics/SimpleGraph): prove the Kővári–Sós–Turán theorem

### PR DESCRIPTION
**Pull request by mitchell-horner**
Prove the Kővári–Sós–Turán theorem (an upper bound on the Zarankiewicz function)

---

- [x] depends on: #19865
- [x] depends on: #20738
- [x] depends on: #27602
- [x] depends on: #34633

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #20240.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/20240*

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 1]
```diff
@@ -0,0 +1,194 @@
...
+      exact sub_nonneg_of_le (mod_cast Nat.succ_le_of_lt card_pos)
+
+end KovariSosTuran
+
+variable [DecidableEq V]
+
+/-- The `(completeBipartiteGraph α β).Free` simple graphs on the vertex type `V` have at most
+`(card β - 1)^(1 / card α) * card V ^ (2 - 1 / card α) / 2 + card V * (card α - 1) / 2` edges.
+
+This is the **Kővári–Sós–Turán theorem**. -/
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]: Can you update `1000.yml`?

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+    · exact card_filterNeighborFinsetSubsets_le h_free
+    · apply mul_le_mul_of_nonneg_right (Nat.choose_le_pow_div (card α) (card V))
+      exact sub_nonneg_of_le (mod_cast Nat.succ_le_of_lt card_pos)
+
+end KovariSosTuran
+
+variable [DecidableEq V]
+
+/-- The `(completeBipartiteGraph α β).Free` simple graphs on the vertex type `V` have at most
+`(card β - 1)^(1 / card α) * card V ^ (2 - 1 / card α) / 2 + card V * (card α - 1) / 2` edges.
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]:
```suggestion
`(card β - 1) ^ (1 / card α) * card V ^ (2 - 1 / card α) / 2 + card V * (card α - 1) / 2` edges.
```
Can you explain how this statement aligns with what Wikipedia claims is the [Kővári–Sós–Turán theorem](https://en.wikipedia.org/wiki/Zarankiewicz_problem#Upper_bounds)?
If I understand correctly, using the `z` notation from Wikipedia:

Wikipedia says:
```lean
z(m, n; s, t) < (s - 1)^(1 / t) * (n - t + 1) * m^(1 - 1 / t) + (t - 1) * m
```
and you prove:
```lean
t ≤ s → z(m, n; s, t) ≤ (s - 1)^(1 / t) * (m + n)^(2 - 1 / t) / 2 + (m + n) * (t - 1) / 2
```

Wikipedia also provides a bound for the symmetric case:
```lean
z(n, n; t, t) < (t - 1)^(1 / t) * n^(2 - 1 / t) + (t - 1) * n / 2 + 1
```
which looks more similar to the bound from your theorem:
```lean
z(n, n; t, t) ≤ (t - 1)^(1 / t) * (2 * n)^(2 - 1 / t) / 2 + 2 * n * (t - 1)
```

Did I miss some trivial algebra? Or is Wikipedia wrong? Or are you only proving the asymptotic statement of the theorem?

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]: None of the above. 😅

This Zarankiewicz function `z(m, n; s, t)` is the maximum number of edges *in a bipartite graph* (with parts of size `m` and `n`) that does not contain $K_{s, t}$.

This file proves a bound on the maximum number of edges *in a simple graph* that does not contain $K_{s, t}$ denoted $\text{ex}(n, K_{s, t})$. See https://en.wikipedia.org/wiki/Forbidden_subgraph_problem#Bipartite_graphs.

It looks similar to the symmetric case because 

$$2 \text{ex}(n, K_{s, t}) \leq z(n, n, s, t) \leq (t - 1) ^ \frac{1}{s}  n ^ {2 - \frac{1}{s}} + (s - 1)  n$$

and Kővári, Sós, Turán proved $z(n, n, s, t) \leq (t - 1) ^ \frac{1}{s}  n ^ {2 - \frac{1}{s}} + (s - 1)  n$.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]: I'll define this Zarankiewicz function and take a stab at converting this proof to the statement you are referring to - then include the case for simple graphs as a special case.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]: `zarankiewicz_le` is now the statement you are looking for as the "Kővári–Sós–Turán theorem". Let me know if it is what you expect.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]: and let me know if you want me to break this PR into smaller chunks.

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 3]
```diff
@@ -0,0 +1,240 @@
...
+noncomputable abbrev bound (m n s t : ℕ) : ℝ :=
+  (t - 1) ^ (s⁻¹ : ℝ) * m * n ^ (1 - (s⁻¹ : ℝ)) + (s - 1) * n
+
+theorem bound_nonneg (m n : ℕ) {s t : ℕ} (hs : 1 ≤ s) (ht : 1 ≤ t) : 0 ≤ bound m n s t := by
+  apply add_nonneg <;> repeat apply mul_nonneg
+  · exact Real.rpow_nonneg (sub_nonneg_of_le (mod_cast ht)) (s : ℝ)⁻¹
+  · exact m.cast_nonneg
+  · exact Real.rpow_nonneg n.cast_nonneg (1 - (s : ℝ)⁻¹)
+  · exact sub_nonneg_of_le (mod_cast hs)
+  · exact n.cast_nonneg
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:49]:
```suggestion
  positivity [(mod_cast hs : (1 : ℝ) ≤ s), (mod_cast ht : (1 : ℝ) ≤ t)]
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 4]
```diff
@@ -0,0 +1,240 @@
...
+          ((∑ w : W, G.degree (.inr w) : ℝ) / card W) / (card α).factorial)
+        · rw [← h_sum_degrees_eq_card_edges, Nat.cast_sum, mul_div,
+            div_le_div_iff_of_pos_right (by positivity), mul_le_mul_iff_right₀ (by positivity)]
+          exact pow_le_descPochhammer_eval h_avg
+        · exact le_card_filter h_le h_avg
+      -- counting `v`
+      · trans (card V).choose (card α) * (card β - 1)
+        · exact card_filter_le h_free
+        · exact mul_le_mul_of_nonneg_right (mod_cast Nat.choose_le_pow_div (card α) (card V)) <|
+            sub_nonneg_of_le (mod_cast Nat.succ_le_of_lt card_pos)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:195]:
```suggestion
      · grw [card_filter_le h_free, mul_le_mul_of_nonneg_right (Nat.choose_le_pow_div ..) ?_]
        exact sub_nonneg_of_le <| mod_cast Nat.succ_le_of_lt card_pos
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 5]
```diff
@@ -0,0 +1,240 @@
...
+        with h_sum_lt | h_avg
+    -- if avg degree less than `card a - 1`
+    · simp_rw [← Nat.cast_sum, h_sum_degrees_eq_card_edges] at h_sum_lt
+      apply h_sum_lt.le.trans
+      apply le_add_of_nonneg_left
+      repeat apply mul_nonneg
+      · exact Real.rpow_nonneg (sub_nonneg_of_le <| Nat.one_le_cast.mpr card_pos) _
+      · exact (card V).cast_nonneg
+      · exact Real.rpow_nonneg (card W).cast_nonneg _
+    -- -- if avg degree at least `card α - 1`
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:159]:
```suggestion
      refine h_sum_lt.le.trans <| le_add_of_nonneg_left ?_
      positivity [(mod_cast card_pos : (1 : ℝ) ≤ Fintype.card β)]
    -- if avg degree at least `card α - 1`
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 6]
```diff
@@ -0,0 +1,240 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mitchell Horner
+-/
+module
+
+public import Mathlib.Analysis.SpecialFunctions.Pochhammer
+public import Mathlib.Analysis.SpecialFunctions.Pow.Real
+public import Mathlib.Combinatorics.SimpleGraph.Bipartite
+public import Mathlib.Combinatorics.SimpleGraph.DegreeSum
+public import Mathlib.Combinatorics.SimpleGraph.Extremal.Basic
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:12]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 7]
```diff
@@ -0,0 +1,240 @@
...
+
+/-!
+# The Kővári-Sós-Turán theorem
+
+This file proves the **Kővári-Sós-Turán theorem** for the Zarankiewicz function and simple graphs.
+
+## Main definitions
+
+* `SimpleGraph.zarankiewicz_le` is the **Kővári-Sós-Turán theorem** upper bounding the
+  zarankiewicz function.
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:23]:
```suggestion
  Zarankiewicz function.
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 8]
```diff
@@ -0,0 +1,240 @@
...
+  simp_rw [card_filter, sum_product_right, ← card_filter, powersetCard_eq_filter,
+    filter_comm, ← mem_powerset, sum_congr rfl h_card_filter_subset_eq, ← powersetCard_eq_filter,
+    card_powersetCard, card_neighborFinset_eq_degree, Nat.cast_sum,
+    ← le_inv_mul_iff₀ (mod_cast card_pos : 0 < (card W : ℝ)), mul_sum,
+    div_eq_mul_inv _ (card W : ℝ), mul_comm _ (card W : ℝ)⁻¹, mul_sum, sum_map]
+  rw [div_eq_inv_mul, mul_sum] at h_avg
+  exact descPochhammer_eval_div_factorial_le_sum_choose
+    (by positivity) _ _ (by simp) (by simp) h_avg
+
+open Classical in
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:119]:
```suggestion
```
Instead use `classical` in the proof

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 9]
```diff
@@ -0,0 +1,240 @@
...
+number of ways to choose `card α` vertices from `card V` vertices `card β - 1` times.
+
+This is an auxiliary lemma for the **Kővári-Sós-Turán theorem**. -/
+lemma card_filter_le [Nonempty β] (h : (completeBipartiteGraph α β).Free G) :
+    #(filter G (card α)) ≤ ((card V).choose (card α) * (card β - 1) : ℝ) := by
+  have hcard_univ_map_inl : #(univ.map .inl : Finset (V ⊕ W)) = card V := by
+    rw [card_map, card_univ]
+  simp_rw [card_filter, sum_product, ← card_filter, ← hcard_univ_map_inl, ← card_powersetCard,
+    ← nsmul_eq_mul, ← sum_const, ← Nat.cast_pred card_pos, ← Nat.cast_sum, Nat.cast_le]
+  refine sum_le_sum (fun t ht_card ↦ ?_)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:72]:
```suggestion
  refine sum_le_sum fun t ht_card ↦ ?_
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 10]
```diff
@@ -0,0 +1,240 @@
...
+  exact fun G _ ↦ KovariSosTuran.card_edgeFinset_le_bound_of_completeBipartiteGraph_free
+
+/-- An upper bound on the symmetric Zarankiewicz function.
+
+This is a corollary of the **Kővári-Sós-Turán theorem**. -/
+public theorem symm_zarankiewicz_le (n : ℕ) {s t : ℕ} (hs : 1 ≤ s) (ht : s ≤ t) :
+    zarankiewicz n n s t
+      ≤ ((t - 1) ^ (s : ℝ)⁻¹ * n ^ (2 - (s : ℝ)⁻¹) + (s - 1) * n : ℝ) := by
+  have h_one_add_one_sub_inv_card_ne_zero : 1 + (1 - (s : ℝ)⁻¹) ≠ 0 := by
+      rw [← add_sub_assoc, ← show (2 : ℝ) = (1 : ℝ) + (1 : ℝ) by norm_num]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:222]:
```suggestion
      rw [← add_sub_assoc, one_add_one_eq_two]
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 11]
```diff
@@ -0,0 +1,240 @@
...
+      exact sub_ne_zero_of_ne <| ne_of_gt <| s.cast_inv_le_one.trans_lt one_lt_two
+  rw [show (2 : ℝ) = (1 : ℝ) + (1 : ℝ) by norm_num, add_sub_assoc,
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:224]:
```suggestion
  rw [← one_add_one_eq_two, add_sub_assoc,
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 12]
```diff
@@ -0,0 +1,240 @@
...
+
+/-- An upper bound on the symmetric Zarankiewicz function.
+
+This is a corollary of the **Kővári-Sós-Turán theorem**. -/
+public theorem symm_zarankiewicz_le (n : ℕ) {s t : ℕ} (hs : 1 ≤ s) (ht : s ≤ t) :
+    zarankiewicz n n s t
+      ≤ ((t - 1) ^ (s : ℝ)⁻¹ * n ^ (2 - (s : ℝ)⁻¹) + (s - 1) * n : ℝ) := by
+  have h_one_add_one_sub_inv_card_ne_zero : 1 + (1 - (s : ℝ)⁻¹) ≠ 0 := by
+      rw [← add_sub_assoc, ← show (2 : ℝ) = (1 : ℝ) + (1 : ℝ) by norm_num]
+      exact sub_ne_zero_of_ne <| ne_of_gt <| s.cast_inv_le_one.trans_lt one_lt_two
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:223]:
```suggestion
    rw [← add_sub_assoc, ← show (2 : ℝ) = (1 : ℝ) + (1 : ℝ) by norm_num]
    exact sub_ne_zero_of_ne <| ne_of_gt <| s.cast_inv_le_one.trans_lt one_lt_two
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 13]
```diff
@@ -0,0 +1,240 @@
...
+    enter [_, _, _, _, 2]
+    rw [← Fintype.card_fin m, ← Fintype.card_fin n, ← Fintype.card_fin s, ← Fintype.card_fin t]
+  exact fun G _ ↦ KovariSosTuran.card_edgeFinset_le_bound_of_completeBipartiteGraph_free
+
+/-- An upper bound on the symmetric Zarankiewicz function.
+
+This is a corollary of the **Kővári-Sós-Turán theorem**. -/
+public theorem symm_zarankiewicz_le (n : ℕ) {s t : ℕ} (hs : 1 ≤ s) (ht : s ≤ t) :
+    zarankiewicz n n s t
+      ≤ ((t - 1) ^ (s : ℝ)⁻¹ * n ^ (2 - (s : ℝ)⁻¹) + (s - 1) * n : ℝ) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:220]:
```suggestion
    zarankiewicz n n s t ≤
      ((t - 1) ^ (s : ℝ)⁻¹ * n ^ (2 - (s : ℝ)⁻¹) + (s - 1) * n : ℝ) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 14]
```diff
@@ -0,0 +1,240 @@
...
+            sub_nonneg_of_le (mod_cast Nat.succ_le_of_lt card_pos)
+
+end KovariSosTuran
+
+/-- An upper bound on the Zarankiewicz function.
+
+This is the **Kővári-Sós-Turán theorem**. -/
+public theorem zarankiewicz_le (m n : ℕ) {s t : ℕ} (hs : 1 ≤ s) (ht : s ≤ t) :
+    zarankiewicz m n s t
+      ≤ ((t - 1) ^ (s⁻¹ : ℝ) * m * n ^ (1 - (s⁻¹ : ℝ)) + (s - 1) * n : ℝ) := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:204]:
```suggestion
    zarankiewicz m n s t ≤
      ((t - 1) ^ (s⁻¹ : ℝ) * m * n ^ (1 - (s⁻¹ : ℝ)) + (s - 1) * n : ℝ) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 15]
```diff
@@ -0,0 +1,240 @@
...
+        ((∑ w : W, G.degree (.inr w) : ℝ) / card W) / (card α).factorial) : ℝ)
+      ≤ #(filter G (card α)) := by
+  have h_subset (x) (hx : x ∈ univ.map .inr) :
+      (G.neighborFinset x).powerset ⊆ (map Function.Embedding.inl univ).powerset := by
+    simp_rw [powerset_mono, neighborFinset_eq_filter, subset_iff, mem_filter, mem_univ,
+      mem_map, mem_univ, true_and, Function.Embedding.inl_apply, eq_comm, ← Sum.isLeft_iff]
+    intro y hadj
+    simp_rw [mem_map, mem_univ, Function.Embedding.inr_apply,
+      true_and, eq_comm, ← Sum.isRight_iff] at hx
+    simpa [hx, Sum.not_isLeft.mpr hx] using h_le hadj
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:105]:
```suggestion
    simp_rw [powerset_mono, neighborFinset_eq_filter, subset_iff, mem_filter, mem_map,
      Function.Embedding.inl_apply]
    intro _ hadj
    grind [h_le hadj.right, Function.Embedding.inr_apply]
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean [hunk 16]
```diff
@@ -0,0 +1,240 @@
...
+  have h_card_filter_subset_eq (x) (hx : x ∈ univ.map .inr) :
+      #{x ∈ {y ∈ (univ.map .inl).powerset | y ∈ (G.neighborFinset x).powerset} | #x = card α}
+        = #{x ∈ (G.neighborFinset x).powerset | #x = card α} := by
+    simp_rw [filter_mem_eq_inter, inter_eq_right.mpr <| h_subset x hx]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean:109]: I think it makes sense to combine these two `have`s
```suggestion
  have h_card_filter_subset_eq (x) (hx : x ∈ univ.map .inr) :
      #{x ∈ {y ∈ (univ.map .inl).powerset | y ∈ (G.neighborFinset x).powerset} | #x = card α}
        = #{x ∈ (G.neighborFinset x).powerset | #x = card α} := by
    simp_rw [filter_mem_eq_inter]
    congr
    rw [inter_eq_right, powerset_mono, neighborFinset_eq_filter, subset_iff]
    simp_rw [mem_filter, mem_map, Function.Embedding.inl_apply]
    intro _ hadj
    grind [h_le hadj.right, Function.Embedding.inr_apply]
```

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/KovariSosTuran.lean]: Thanks for the review! I wrote this formalization two years ago so there is much to modernize. :grin:
